US05932606
Step B: 1-Boc-4-iodo-5-methylimidazole
A suspension of 4-iodo-5-methylimidazole (4.16 g, 20 mmol) and di-t-butyldicarbonate (5.24 g, 24 mmol) in methylene chloride (100 ml) containing triethylamine (4.0 ml, 28.7 mmol) was stirred at room temperature until homogeneity was achieved (2 h). The reaction mixture was then washed well with water, dried (Na2SO4) and concentrated. The residue was chromatographed (5:1 hexane/ethyl acetate) to afford the title compound as a crystalline white solid. 1H NMR (CDCl3) d 1.62 (s, 9 H), 2.43 (s, 3 H), 8.00 (s, 1 H).

reactant | 4-iodo-5-methylimidazole | 20 mmol, 4.16 g | IC=1N=CNC1C | C4H5IN2
reactant | di-t-butyldicarbonate | 24 mmol, 5.24 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 28.7 mmol, 4.0 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Boc-4-iodo-5-methylimidazole | C(=O)(OC(C)(C)C)N1C=NC(=C1C)I | C9H13IN2O2
